US07858632B2
To a solution of [4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-(2,4-dimethoxy-pyrimidin-5-yl)-methanol (0.418 g, 0.9 mmol) in 20 mL toluene was added MnO2 (0.335 g, 4.7 mmol). The mixture was warmed to reflux and H2O was removed via a Dean-Stark trap. After 1 hour the mixture was cooled, filtered through a pad of celite and concentrated in vacuo to give a crude oil. Purification via flash chromatography (7:3 hexane/ethyl acetate) afforded [4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-(2,4-dimethoxy-pyrimidin-5-yl)-methanone (0.258 g, 62%) as a clear oil.

reactant | [4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-(2,4-dimethoxy-pyrimidin-5-yl)-methanol | 0.9 mmol, 0.418 g | COC1=CC(=C(C=C1OC)C(O)C=1C(=NC(=NC1)OC)OC)C(CC1=CC=CC=C1)C | C24H28N2O5
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 4.7 mmol, 0.335 g | O=[Mn]=O
product | [4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-(2,4-dimethoxy-pyrimidin-5-yl)-methanone | 0.258 g, 62% | COC1=CC(=C(C=C1OC)C(=O)C=1C(=NC(=NC1)OC)OC)C(CC1=CC=CC=C1)C | C24H26N2O5
